US05064835
2-Acetoxy-17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-3,10,16-trione
To a cooled solution (0° C.) of 17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone (120 mg) in dry methylene chloride (15 ml) is added 2,6-lutidine (64.3 mg) followed by triisopropylsilyl trifluoromethanesulfonate (184 mg). Reaction temperature is raised to r.t. and stirred overnight under nitrogen atmosphere. The reaction is quenched with 10 ml of water and extracted with ethyl acetate. Organic layer is washed (water, sat'd NaHCO3, sat'd NaCl) and dried (anhydrous MgSO4). Removal of solvent followed by chromatography on silica gel (70% hexane/ethyl acetate) gives the title compound.

reactant | 17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 120 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C44H69NO12
reactant | 2,6-lutidine | 64.3 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | triisopropylsilyl trifluoromethanesulfonate | 184 mg | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetoxy-17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-3,10,16-trione | C(C)(=O)OC1C2(C(CC(C(C(CC(CC(=CC(C(CC(C(C(OC(C3CCCCN3C1=O)=O)C(=CC1CC(C(CC1)O)OC)C)C)O)=O)CC=C)C)C)OC)O2)OC)C)O | C46H73NO13
